US07612075B2
In a round-bottom flask, 20 ml of anhydrous toluene is added and degassed several times from vacuum/N2. 2-methoxy-5-bromopyridine (752 mg, 4.0 mmol), ethyl isonipecotate (740 mg, 4.8 mmol), sodium t-butoxide (537 mg, 5.6 mmol), Pd2(DBA)3 (73 mg, 2 mol %) and of BINAP (100 mg, 0.16 mmol) are added and heated to 70° C. under N2 for 16 hrs. The reaction is cooled to r.t. and taken up in 100 ml of ethyl ether and washed with brine (2×50 ml). The ether is dried over MgSO4, filtered and reduced to an oil under vacuum. The compound is purified by flash chromatography on silica gel using 20% ethyl acetate/hexane as the eluent to provide 6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-carboxylic acid ethyl ester. 1H NMR (300 MHz, CDCl3) δ 7.78 (d, 1H), 7.28 (dd, 1H), 6.66 (d, 1H), 4.15 (q, 2H), 3.87 (s, 3H), 3.42 (dt, 2H), 2.71 (dt, 2H), 2.39 (m, 1H), 2.03 (m, 2H), 1.90 (m, 2H), 1.26 (t, 3H); MS (EI) 264 (M)+.

reactant | 2-methoxy-5-bromopyridine | 4.0 mmol, 752 mg | COC1=NC=C(C=C1)Br | C6H6BrNO
reactant | ethyl isonipecotate | 4.8 mmol, 740 mg | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | sodium t-butoxide | 5.6 mmol, 537 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.16 mmol, 100 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | Pd2(DBA)3 | 73 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C=1C=NC(=CC1)OC | C14H20N2O3
